Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ampicillin / Ativan / Corticosteroids (Glucocorticoids) / 
Influenza Virus Vaccines / Penicillins / prednisone
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with pmh of diverticulitis and 
chronic constipation who presents with ___ days of abdominal 
pain, constipation, nausea and vomiting. The patient recently 
went on a two week trip to ___ with a
friend. When she returned, she was concerned she had a UTI 
andwent to urgent care as she has been having difficulty 
establishing care with a PCP. She was given a prescription for 
Cipro, it is unclear if she completed the antibiotics.

Over the last few days, she developed worsening abdominal pain. 
She has had difficulty with constipation and often needs finger 
evacuation to have a bowel movement. She currently drinks prune 
juice and takes 2Tbs of olive oil nightly. She has also tried 
psyllium. She can not tolerate mirlax as it makes her nauseated. 
Given her ongoing constipation 2 days prior to admission, she 
tried a suppository with some result. She subsequently developed 
nausea with vomiting and abdominal pain. She therefore called 
911(did not call her family).

She presented to ___ where she had a CT scan 
which showed extensive diverticulitis, and concern for fistula 
between uterus, sigmoid colon and bladder.  She was subsequently 
transferred to ___. She was evaluated by colorectal surgery in 
the emergency department and given IV antibiotics. 

Currently, she reports mild abdominal pain but denies nausea or 
vomiting. She has been tolerating clear liquids. She reports she 
was admitted to ___ for diverticulits ___ years 
ago and had similar symptoms. She denies fevers or chills. 
Denies shortness of breath. She is able to ambulate on a flat 
surface without SOB but does get SOB when walking stairs. She 
denies chest pain. Denies palpitations.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
Hypothyroidism
Bladder polyp (both patient and daughter deny h/o bladder 
cancer)
Chronic constipation
Diabetes- diet controlled
Asthma
COPD

 
Social History:
___
Family History:
Mother- deceased in ___ of Colorectal CA. 
Daughter- MS
___

 
Physical Exam:
Admission exam
VITALS: 98.1 BP:128/61 HR:50 R:17 O2:95 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round, EOMI
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Faint crackles at bases B/L  Breathing is non-labored
GI: Abdomen soft, slightly tender to deep palpation in all
quantrants, worst in LLQ.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout. AAOx3, Some difficulty with day of week and
details.
PSYCH: pleasant, appropriate affect

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs
___ 11:53PM BLOOD WBC-7.5 RBC-4.58 Hgb-12.3 Hct-38.9 MCV-85 
MCH-26.9 MCHC-31.6* RDW-16.6* RDWSD-50.5* Plt ___
___ 11:53PM BLOOD Glucose-97 UreaN-19 Creat-0.8 Na-142 
K-4.4 Cl-104 HCO3-25 AnGap-13

Discharge labs
___ 08:30AM BLOOD WBC-4.7 RBC-4.40 Hgb-12.2 Hct-37.2 MCV-85 
MCH-27.7 MCHC-32.8 RDW-16.1* RDWSD-49.1* Plt ___
___ 08:30AM BLOOD Glucose-102* UreaN-7 Creat-0.7 Na-144 
K-4.2 Cl-106 HCO3-28 AnGap-10

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of diverticulitis 
who presents with abdominal pain, found to have likely 
colouterine and colovesicular fistulas.

# Diverticulitis
# Colovesicular fistula - patient presented with abdominal pain 
as well as several episodes of n/v, prompting her to present to 
___. CT scan there concerning for diverticulitis as well 
as colouterine and colovesical fistula. She was transferred to 
___ for further care. Surgery evaluated patient and did not 
recommend acute surgical intervention as patient stable - 
offered elective correction of fistula which patient declined. 
She was started on cipro and flagyl for diverticulitis. She was 
also started on a bowel regimen for large stool burden seen on 
CT scan. Her abdominal pain improved with antibiotics and bowel 
regimen. She remained hemodynamically stable and was able to 
tolerate a general diet.  She will complete a 2 week course of 
antibiotics

#Hypothyroid - continued on levothyroxine

#Encephalopathy/?early memory loss - maintained delirium 
precautions.

#Type II Diabetes, diet controlled

Transitional care issues
-colouterine fistula and colovesical fistula - patient 
relatively asymptomatic from this standpoint, can follow up in 
surgery clinic should she wish to pursue elective correction

Greater than 30 minutes spent providing and coordinating care 
for this patient on day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU BID 
4. Escitalopram Oxalate 5 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 11 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
12 hours Disp #*22 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*33 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
4.  Psyllium Powder 1 PKT PO DAILY 
RX *psyllium husk (aspartame) [Natural Psyllium Fiber] 3.4 
gram/5.8 gram 1 powder(s) by mouth daily Disp #*30 Packet 
Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth every 12 hours Disp #*60 Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Escitalopram Oxalate 5 mg PO DAILY  
8.  Fluticasone Propionate NASAL 2 SPRY NU BID  
9.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diverticulitis
Colouterine and colovesical fistula
Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with abdominal pain, nausea, and vomiting. You 
were found to have a infection and inflammation of the colon 
called diverticulitis. CT scan also showed that you have a 
fistula between your colon and uterus as well as the bladder. It 
would require an extensive surgery to fix this and would include 
a colostomy. You were started on antibiotics and medicines for 
constipation. Your symptoms improved. You will be on antibiotics 
for two weeks total. 

Thank you for allowing us to participate in your care
Your ___ team

 
Followup Instructions:
___